// Generated for spectre
simulator lang =spectre
global 0

include "$ADT_LUT/design.ngspice"
include "$ADT_LUT/sm141064.ngspice" section=typical


simulator lang =spectre

parameters VGS=0.8269641541924478 VDS=0.5 VSB=0.3 MAX_VDS=3.3 MIN_VGS=0.0 MAX_VGS=3.3 IBIAS=1.0120238476751906e-05 VCVS_GAIN=1000 VCVS_MAX_VOLTAGE=2.473035845807552 VCVS_MIN_VOLTAGE=-0.8269641541924478 M10_L=4.5000000000000003e-07 M11_L=4.5000000000000003e-07 M12_L=4.5000000000000003e-07 M10_W=8.24e-06 M11_W=8.24e-06 M12_W=8.24e-06 M10_NF=2 M11_NF=2 M12_NF=2 M10_Mult=2 M11_Mult=2 M12_Mult=2

subckt ADT_SA 
VX10 VG0 0 vsource dc = VGS mag = 1
VX20 VD0 vn vsource dc = VDS
VX30 VS0 0 vsource dc = 0
VX40 VB0 0 vsource dc = -1*VSB
VX11 VG1 0 vsource dc = VGS
VX21 VD1 0 vsource dc = VDS mag = 1
VX31 VS1 0 vsource dc = 0
VX41 VB1 0 vsource dc = -1*VSB
VX12 VG2 0 vsource dc = VGS
VX22 VD2 0 vsource dc = VDS
VX32 VS2 0 vsource dc = 0 mag = 1
VX42 VB2 0 vsource dc = -1*VSB
VNOI vn 0 vsource dc = 0
M10 VD0 VG0 VS0 VB0 nmos_03v3 L=450n W=4.12u nf=2 ad=int((2+1)/2) * 4.12u/2 * 0.18u as=int((2+2)/2) * 4.12u/2 * 0.18u pd=2*int((2+1)/2) * (4.12u/2 + 0.18u) ps=2*int((2+2)/2) * (4.12u/2 + 0.18u) nrd=0.18u / 4.12u nrs=0.18u / 4.12u sa=0 sb=0 sd=0 multi=2
M11 VD1 VG1 VS1 VB1 nmos_03v3 L=450n W=4.12u nf=2 ad=int((2+1)/2) * 4.12u/2 * 0.18u as=int((2+2)/2) * 4.12u/2 * 0.18u pd=2*int((2+1)/2) * (4.12u/2 + 0.18u) ps=2*int((2+2)/2) * (4.12u/2 + 0.18u) nrd=0.18u / 4.12u nrs=0.18u / 4.12u sa=0 sb=0 sd=0 multi=2
M12 VD2 VG2 VS2 VB2 nmos_03v3 L=450n W=4.12u nf=2 ad=int((2+1)/2) * 4.12u/2 * 0.18u as=int((2+2)/2) * 4.12u/2 * 0.18u pd=2*int((2+1)/2) * (4.12u/2 + 0.18u) ps=2*int((2+2)/2) * (4.12u/2 + 0.18u) nrd=0.18u / 4.12u nrs=0.18u / 4.12u sa=0 sb=0 sd=0 multi=2
ends ADT_SA

X_ADT_SA ADT_SA

simulatorOptions options reltol=1e-3 vabstol=1e-8 iabstol=1e-12 temp=27.0 \
tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
checklimitdest=psf

adt_dc dc  maxiters=150 maxsteps=10000 annotate=status
adt_ac ac values=1 annotate=status prevoppoint=yes skipdc=yes
adt_noise noise start=10 stop=1G log=1 oprobe=X_ADT_SA.VNOI annotate=status

modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
save*:oppoint sigtype=dev

